data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,331,"CS(=O)(C1=CC=CC=C1)=[N+:1]=[C:2]=CC1=C([C:3]2=[CH:4][S:5][CH:6]=[CH:7]2)C=CC=C1.O=S(=O)([N-]S(=O)(=O)C(F)(F)F)C(F)(F)F|(5, 6);((6, 7), 3);((3, 4), 2);((2, 1), 1)"
train,pmechdb_split_0,0,9766,"CC[O:1]C(O)(O)CCO[Si](C)(C)C.O=S(=O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,8099,"C[NH+:1]=[CH2:2].[I-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1085,"C=C(C)[C:1](C)=[O:2].C=[C:3](C)[Mg:4][Br]|((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,5792,"CCOC(=O)CC[C:1]([CH2:2][H:3])=[O:4].C[O-:5]|(5, 3);((3, 2), 1);((1, 4), 4)"
train,pmechdb_split_0,0,8949,"CCCCCCCCC=CCCCCCCCC(=O)[O-].CCCCCCCCC=CCCCCCCC[C:1](OCC1=CC=CC=C1)([N+:2]1=CC=C(N(C)C)C=C1)[O-:3].CN(C)C1=CC=[NH+]C=C1.O=C(NC1CCCCC1)NC1CCCCC1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2354,"ClCCC[OH:1].Cl[S:2](Cl)=[O:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,5295,"CCCNC(O)(C1=C(C(=O)O)C=CC=C1)[OH+:1][H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,1155,"CC(C)[N-:1]C(C)C.CC1C=CC[CH:2]([H:3])[CH:4]1[Br:5]|(1, 3);((3, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,8691,"C1COC2(CC[C:1](=[O:2])CC2)O1.C1C[NH:3]CCO1.CC1=CC=C(S(=O)(=O)O)C=C1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,1332,"O=C(C1=CC=CC=C1)C1C=C(C2=CC=CC=C2)[O:1][C:2]1(C1=CC=CC=C1)[OH2+:3].O=S(=O)([O-])C(F)(F)F|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,6521,"CC(=O)[O-:1].C[N+:2]12CCC[CH:3]1C2.[Cl-]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,1520,"C[C:1]([CH:2](CC(=O)C1=CC=CC=C1)[H:3])=[OH+:4].O=S(=O)([O-])O.[OH2:5]|(5, 3);((3, 2), 1);((1, 4), 4)"
train,pmechdb_split_0,0,4061,"O[C:1]1([O-:2])C2CCC[CH:3]21.[Cl-].[Na+].[Na][OH+:4][H:5]|(2, 1);((1, 3), 5);((5, 4), 4)"
train,pmechdb_split_0,0,9038,"CCO[S+](C)[CH2-:1].O=P(O)(O)[O:2][H:3]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,1053,"CC1=CC=C(S(=O)(=O)[O:1][CH:2]2CCCC(C3CCCCC3)C2OC(C)=[O:3])C=C1|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2264,"CC(C(=O)O[Si-:1](C)(C)(C)[O:2][P+:3](CCCCC1=CC=CC=C1)(CC(=O)O[Si](C)(C)C)O[Si](C)(C)C)C1=CC=CC=C1.C[Si](C)(C)[NH2+][Si](C)(C)C.[Cl-]|((1, 2), 3)"
train,pmechdb_split_0,0,1727,"C=[C+]C[Si:1](C)(C)C.CS(=O)(=O)[O-:2]|(2, 1)"
train,pmechdb_split_0,0,6746,"CC[CH:1]([N+](=O)[O-])[H:2].[OH-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,10368,"CC[Si-:1](CC)(CC)([O+](C)[Sn-]([Cl])([Cl])([Cl])[Cl])[O+:2]=C1CCCC2CC(OC)C3C4CCCC4CC123|((1, 2), 2)"
train,pmechdb_split_0,0,7998,"CC1=CC=C(S(=O)(=O)[O-])C=C1.COC1=C(OC)C=C([CH:1]=[O+:2]CCC[OH:3])C(Br)=C1.O|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,382,"CC(=O)C1=CC=C(Cl)C=C1.CO[CH:1]([N:2](C)C)[OH+:3]C.NC1=NN=NN1.O=S(=O)([O-])[O-].[Cl-]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,6757,"CC[CH:1](C)[Br:2].C[C:3](C)=[C:4](C)[O-:5]|(5, 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,3052,"CC(C)=[C:1]=[O:2].CC[O-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,4509,"CO[C:1]1=[CH:2]C=C(Br)C2=CC=CC=C21.[Br:3][Br:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,8846,"C=C(C)C1OC2(C)CCC3C(=C2CC1[OH:1])CCC1COC(=O)C13C.CC(=O)O[I+:2]1(OC(C)=O)OC(=O)C2=C1C=CC=C2.CC(=O)[O-]|(1, 2)"
train,pmechdb_split_0,0,4016,"CCCCCC(CC)[O:1][H:2].[H:3][Na:4]|((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,5676,"COC1=C(O)C2=C(C=C1)CC1C3CC(OC)C(=O)CC23CC[N:1]1CC1=CC=CC=C1.COC1=C(O)C2=C(C=C1)CC1C3CC(OC)[C:2](=[OH+:3])[CH:4]([H:5])C23CCN1CC1=CC=CC=C1.CS(=O)(=O)[O-]|(1, 5);((5, 4), 2);((2, 3), 3)"
train,pmechdb_split_0,0,2130,"C[CH:1]=[N+:2](C)C.[Br-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,9659,"CCCC(CCC)=[O+:1][Na:2].[BH4-]|((2, 1), 1)"
train,pmechdb_split_0,0,4664,"C[S+](C)(=O)[CH2:1][H:2].[OH-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,2822,"Br[C-:1](Br)Br.Br[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.C1=CC(C[O:2][H:3])=CO1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,9381,"CC[O+:1](C1(C(C)C)CCCC1)[H:2].O=S(=O)(O)[O-:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,7937,"C=CC(=O)COC(C)=O.CC1=C(CCO)S[C:1]([C:2](O)(C2=CC=C(F)C=C2)[H:3])=[N+:4]1CC1=CC=CC=C1.CC[N:5](CC)CC.[Cl-]|(5, 3);((3, 2), 1);((1, 4), 4)"
train,pmechdb_split_0,0,10378,"C1=CC=[N:1]C=C1.CC1=CC=C(S(=O)(=O)[O-])C=C1.CCOC(=O)C12CCC(C1(C)C)[CH:2]([H:3])[C:4]2=[NH+:5]CC1=CC=CC=C1.O|(1, 3);((3, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,835,"O=C1CCC(=[O:1])O1.[Cl][Al:2]([Cl])[Cl]|(1, 2)"
train,pmechdb_split_0,0,2636,"O=S(=O)(O)C1=CC2=C(C=C1)[C:1](Br)([H:2])[CH+:3]C=C2.[Br-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,8177,"O[C:1]1([NH2:2])OCCC[OH+:3]1|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,2974,"CC(C)[C:1]([CH:2](C1=CC=CC=C1)[H:3])=[O:4].[NH2-:5]|(5, 3);((3, 2), 1);((1, 4), 4)"
train,pmechdb_split_0,0,9985,"CC(=O)C1=CC2=C(C=C1)C=C[CH:1]=[CH:2]2.C[CH+:3]C|((1, 2), 3)"
train,pmechdb_split_0,0,5615,"C[N+]1(CC(=O)[O-:1])CC(=O)[O][Mg:2]1.O|(1, 2)"
train,pmechdb_split_0,0,8243,"[CH2:1]([OH:2])[Cl:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,3958,"CBr.CCN1CCC23C4=C5C=CC([O:1][B-:2](O)(Br)Br)=C4OC2C(=O)CCC3(O)C1C5.O|((2, 1), 1)"
train,pmechdb_split_0,0,4446,"CO.COC(C1=CC2=C(C=CN2)C=C1)=[O+:1][H:2].O=S(=O)([O-])O.[OH2:3]|(3, 2);((2, 1), 1)"
